US07947834B2
0.4 g of 4-[4-{[3-(1H-pyrazol-4-yl)pyrrolidin-1-yl]carbonyl}-3,4-dihydroquinoxalin-1(2H)-yl]benzoic acid, 0.19 g of 1-aminopiperidine, 0.26 g of hydroxybenzotriazole, 0.37 g of EDC.HCl and 7 ml of a dioxane/dimethylformamide 5/2 mixture are introduced into a 100 ml round-bottomed flask equipped with a magnetic stirrer. The reaction mixture is stirred at ambient temperature for 20 h and concentrated under vacuum. The residue is chromatographed on silica gel eluted with a dichloromethane/acetone/methanol/NH4OH 88/10/2/0.2 and then 82/15/3/0.3 mixture. After triturating in ethyl ether, 0.28 g of N-(piperidin-1-yl)-4-{4-[3-(1H-pyrazol-4-yl)pyrrolidine-1-carbonyl]-3,4-dihydro-2H-quinoxalin-1-yl}benzamide is obtained.

reactant | 4-[4-{[3-(1H-pyrazol-4-yl)pyrrolidin-1-yl]carbonyl}-3,4-dihydroquinoxalin-1(2H)-yl]benzoic acid | 0.4 g | N1N=CC(=C1)C1CN(CC1)C(=O)N1CCN(C2=CC=CC=C12)C1=CC=C(C(=O)O)C=C1 | C23H23N5O3
reactant | 1-aminopiperidine | 0.19 g | NN1CCCCC1 | C5H12N2
reactant | hydroxybenzotriazole | 0.26 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | EDC.HCl | 0.37 g | CCN=C=NCCCN(C)C.Cl
solvent | dioxane dimethylformamide | 7 ml | O1CCOCC1.CN(C=O)C
product | N-(piperidin-1-yl)-4-{4-[3-(1H-pyrazol-4-yl)pyrrolidine-1-carbonyl]-3,4-dihydro-2H-quinoxalin-1-yl}benzamide | 0.28 g | N1(CCCCC1)NC(C1=CC=C(C=C1)N1CCN(C2=CC=CC=C12)C(=O)N1CC(CC1)C=1C=NNC1)=O | C28H33N7O2
